US07538123B2
(4) 1-(1-(2-(7-Methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide
120 mg of 1-(piperidin-4-yl)-1H-indole-6-carboxamide and 163 mg of (7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)acetaldehyde were dissolved in 10 ml of methylene chloride. Thereafter, 0.06 ml of acetic acid was added to the reaction solution, and the obtained mixture was then stirred at room temperature for 15 minutes. Thereafter, 157 mg of sodium triacetoxyborohydride was added to the reaction solution, and the obtained mixture was then stirred at room temperature for 1 hour. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, followed by extraction with chloroform. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (methanol-ethyl acetate), followed by solidification with ethyl acetate, so as to obtain 220 mg of the subject compound.

reactant | 1-(piperidin-4-yl)-1H-indole-6-carboxamide | 120 mg | N1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N | C14H17N3O
reactant | (7-methoxy-2,2-dimethyl-4-oxochroman-8-yl)acetaldehyde | 163 mg | COC1=CC=C2C(CC(OC2=C1CC=O)(C)C)=O | C14H16O4
reactant | sodium triacetoxyborohydride | 157 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
product | 1-(1-(2-(7-Methoxy-2,2-dimethyl-4-oxochroman-8-yl)ethyl)piperidin-4-yl)-1H-indole-6-carboxamide | 220 mg | COC1=CC=C2C(CC(OC2=C1CCN1CCC(CC1)N1C=CC2=CC=C(C=C12)C(=O)N)(C)C)=O | C28H33N3O4
